US08013003B2
N-Methyl-N-(3-oxocyclohexyl)-[2,1,3]-benzoxadiazole-5-carboxamide
N-(3-Hydroxycyclohexyl)-N-methyl-[2,1,3]-benzoxadiazole-5-carboxamide (0.38 g, 1.38 mmol) was dissolved in dichloromethane (10 ml) and PCC (3 g) was added and the mixture stirred for 3 h at 20° C. The solvent was evaporated onto silica gel and the product chromatographed on silica gel eluting with ethyl acetate/chloroform (3:1) to give the title product as a white solid after trituration with diethyl ether (0.19 g). Mp=164-165° C., 1H NMR (300 MHz, CDCl3, rotamers) δ 7.93 (d, J=9.3 Hz, 1H); 7.84 (s, 1H); 7.40 (d, J=9.3 Hz, 1H); 4.90-4.67 and 4.00-3.75 (m, 1H); 3.00 (sb, 3H); 2.71-1.30 ppm (s, 8H).

reactant | N-(3-Hydroxycyclohexyl)-N-methyl-[2,1,3]-benzoxadiazole-5-carboxamide | 1.38 mmol, 0.38 g | OC1CC(CCC1)N(C(=O)C1=CC=2C(=NON2)C=C1)C | C14H17N3O3
reactant | PCC | 3 g | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-Methyl-N-(3-oxocyclohexyl)-[2,1,3]-benzoxadiazole-5-carboxamide | CN(C(=O)C1=CC=2C(=NON2)C=C1)C1CC(CCC1)=O | C14H15N3O3
